US07696215B2
To a solution of methyl 3-[(5-fluoro-2-nitrobenzoyl)amino]-4-methylbenzoate (8 g) in DMSO (24 ml) was added N-isopropylpiperazine (3.4 g) and N,N-diisopropylethylamine (4.7 ml) and the reaction stirred at room temperature for 6 hours. Water (200 ml) was added and the resultant solid collected by filtration, washed with water (×3) and dried in vacuo at 50° C. for 16 hours to yield methyl 4-methyl-3-{[5-(4-isopropylpiperazin-1-yl)-2-nitrobenzoyl]amino}benzoate as a yellow solid (10.7 g); NMR Spectrum: (DMSOd6) 0.99 (d, 6H), 2.34 (s, 3H), 2.55 (m, 4H), 2.71 (m, 1H), 3.50 (m, 4H), 3.85 (s, 3H), 7.07 (m, 2H), 7.39 (d, 1H), 7.71 (m, 1H), 8.06 (d, 1H), 8.20 (m, 1H), 9.96 (s, 1H); Mass Spectrum: M+H+ 441.

reactant | methyl 3-[(5-fluoro-2-nitrobenzoyl)amino]-4-methylbenzoate | 8 g | FC=1C=CC(=C(C(=O)NC=2C=C(C(=O)OC)C=CC2C)C1)[N+](=O)[O-] | C16H13FN2O5
reactant | N-isopropylpiperazine | 3.4 g | C(C)(C)N1CCNCC1 | C7H16N2
reactant | N,N-diisopropylethylamine | 4.7 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Water | 200 ml | O | H2O
solvent | DMSO | 24 ml | CS(=O)C | C2H6OS
product | methyl 4-methyl-3-{[5-(4-isopropylpiperazin-1-yl)-2-nitrobenzoyl]amino}benzoate | 10.7 g | CC1=C(C=C(C(=O)OC)C=C1)NC(C1=C(C=CC(=C1)N1CCN(CC1)C(C)C)[N+](=O)[O-])=O | C23H28N4O5
